US07915261B2
Under ice cooling, sodium hydride (60% oil, 141 mg) was added to a DMF (20 ml) solution of (3-cyanobenzyl)(triphenyl)phosphonium bromide (1.6 g) and tert-butyl 4-formyl-1-piperidinecarboxylate (0.75 g), followed by stirring overnight at room temperature. The reaction liquid was diluted with EtOAc, washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (eluent: hexane:EtOAc=6:1 (v/v)) to obtain an oil. 10% Palladium-carbon (100 mg) was added to an EtOAc (30 ml) solution of the resulting oil, followed by stirring in a hydrogen stream atmosphere for 2 hours. The catalyst was removed with Celite, and the solvent was concentrated to obtain an oil. The resulting oil was dissolved in EtOAc (10 ml), and 4 M hydrogen chloride/EtOAc solution (5 ml) was added thereto, then stirred at room temperature for 6 hours, and then concentrated. The resulting solid was washed with ether and dried under reduced pressure to obtain 3-[2-(4-piperidinyl)ethyl]benzonitrile hydrochloride (506 mg).

reactant | sodium hydride | 141 mg | [H-].[Na+]
reactant | (3-cyanobenzyl)(triphenyl)phosphonium bromide | 1.6 g | [Br-].C(#N)C=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1
reactant | tert-butyl 4-formyl-1-piperidinecarboxylate | 0.75 g | C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO3
reactant | hydrogen | [H][H] | H2
reactant | hydrogen chloride EtOAc | 4 M, 5 ml | Cl.CCOC(=O)C
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
catalyst | Palladium-carbon | 100 mg | [C].[Pd]
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-[2-(4-piperidinyl)ethyl]benzonitrile hydrochloride | 506 mg | Cl.N1CCC(CC1)CCC=1C=C(C#N)C=CC1 | InChI=1S/C14H18N2.ClH/c15-11-14-3-1-2-13(10-14)5-4-12-6-8-16-9-7-12;/h1-3,10,12,16H,4-9H2;1H
